US06143762
2-(4-Phthalimidobutyl)-7-(2-thiophenesulfonyloxy)-1,2,3,4-tetrahydroisoquinoline
A stirred mixture of 7-hydroxy-2-(4-phthalimidobutyl)-1,2,3,4-tetrahydroisoquinoline (2.94 g, 8.4 mmol) and triethylamine (1.4 ml, 10 mmol) in dichloromethane (75 ml) was treated with 2-thiophenesulfonyl chloride (1.69 g, 9.2 mmol). After stirring at room temperature for 18 h the mixture was washed with saturated aqueous sodium bicarbonate (100 ml). The aqueous layer was separated and extracted with dichloromethane (2×50 ml). The combined extracts were washed with brine, dried (Na2SO4) and evaporated in vacuo. The residue was chromatographed on silica using 30-100% ethyl acetate-pentane gradient elution to afford the title compound as a pale yellow oil (3.45 g, 83%).

reactant | 7-hydroxy-2-(4-phthalimidobutyl)-1,2,3,4-tetrahydroisoquinoline | 8.4 mmol, 2.94 g | OC1=CC=C2CCN(CC2=C1)CCCCN1C(C=2C(C1=O)=CC=CC2)=O | C21H22N2O3
reactant | triethylamine | 10 mmol, 1.4 ml | C(C)N(CC)CC | C6H15N
reactant | 2-thiophenesulfonyl chloride | 9.2 mmol, 1.69 g | S1C(=CC=C1)S(=O)(=O)Cl | C4H3ClO2S2
solvent | dichloromethane | 75 ml | ClCCl | CH2Cl2
product | 2-(4-Phthalimidobutyl)-7-(2-thiophenesulfonyloxy)-1,2,3,4-tetrahydroisoquinoline | 3.45 g, 83% | C1(C=2C(C(N1CCCCN1CC3=CC(=CC=C3CC1)OS(=O)(=O)C=1SC=CC1)=O)=CC=CC2)=O | C25H24N2O5S2
